*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/8.20e-03[uF]/50[V]
* Murata P/N :GCM2192C1H822JA01
* Property : C = 8.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2192C1H822JA01 Port1 Port2
C01 Port1 N01 8.25e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 4.59e-11
R03 N02 N03 7.00e-03
L04 N03 N04 8.96e-11
R04 N03 N04 2.40e-01
L05 N04 N05 5.30e-11
R05 N04 N05 4.74e-03
C06 N05 N06 2.58e-08
L06 N05 N06 3.75e-11
R06 N05 N06 1.98e-01
C07 N06 N07 1.12e-08
L07 N06 N07 3.61e-11
R07 N06 N07 3.34e-01
C08 N07 Port2 1.16e-12
L08 N07 Port2 3.13e-10
R08 N07 Port2 9.75e+01
.ENDS GCM2192C1H822JA01
